US09403831B2
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(4-(morpholinomethyl)phenyl)pyrimidin-2-yl)morpholine (Chemical Formula 18)
(S)-4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)benzaldehyde 40 mg (0.08 mmol) was dissolved in methylene chloride 3 ml, and morpholine 14 μl (0.17 mmol), acetic acid 5.7 μl (0.09 mmol), and NaBH(OAc)3 26.5 mg (0.12 mmol) were added and then charged with nitrogen, followed by stirring at room temperature for 18 hours. After the reaction, the reaction mixture was cooled and adjusted to pH 8 with K2CO3(aq.), followed by extraction with MC and water, and the organic layer was dried over MgSO4. Column chromatography (methylene chloride:methanol=20:1) gave a product 18.7 mg (41%).

reactant | (S)-4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)benzaldehyde | 0.08 mmol, 40 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C2=CC=C(C=O)C=C2 | C24H22N10O2
reactant | morpholine | 0.17 mmol, 14 μl | N1CCOCC1 | C4H9NO
reactant | acetic acid | 0.09 mmol, 5.7 μl | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.12 mmol, 26.5 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(4-(morpholinomethyl)phenyl)pyrimidin-2-yl)morpholine | 18.7 mg, 41% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C2=CC=C(C=C2)CN2CCOCC2 | C28H31N11O2
